US07446222B2
Ethyl 6-(5′-chloro-2′-{[(2,4-difluorophenyl)methyl]oxy}-2-biphenylyl)-2-pyridinecarboxylate
Prepared in a similar manner to ethyl 6-(5′-chloro-2′-{[(4-fluorophenyl)methyl]oxy}-2-biphenylyl)-2-pyridinecarboxylate but using 2,4-difluorobenzyl bromide in place of 4-fluorobenzyl bromide. LC/MS t=3.82, [MH+] 480.3

reactant | ethyl 6-(5′-chloro-2′-{[(4-fluorophenyl)methyl]oxy}-2-biphenylyl)-2-pyridinecarboxylate | ClC=1C=CC(=C(C1)C1=C(C=CC=C1)C1=CC=CC(=N1)C(=O)OCC)OCC1=CC=C(C=C1)F | C27H21ClFNO3
reactant | 2,4-difluorobenzyl bromide | FC1=C(CBr)C=CC(=C1)F | C7H5BrF2
product | Ethyl 6-(5′-chloro-2′-{[(2,4-difluorophenyl)methyl]oxy}-2-biphenylyl)-2-pyridinecarboxylate | ClC=1C=CC(=C(C1)C1=C(C=CC=C1)C1=CC=CC(=N1)C(=O)OCC)OCC1=C(C=C(C=C1)F)F | C27H20ClF2NO3
